US06107301
N-(2-Bromo-4-(1-Methylethyl)Phenyl)-N-Ethyl-6-Methyl-4-(4-Morpholinylmethyl)-2-Pyrimidinamine
A solution of N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-methyl-6-(4-morpholinylcarbonyl)-2-pyrimidinamine (750 mg, 1.72 mmol) in anhydrous THF (1.4 mL) was stirred at ambient temperature under a nitrogen atmosphere. A solution of borane in THF (1 M, 3.6 mL, 3.6 mmol) was added dropwise. The reaction mixture was then warmed to reflux temperature and stirred for 20 hours. After cooling to room temperature, acetic acid (3.5 mL) was added slowly and the mixture was heated to reflux temperature and stirred for 30 min. After being cooled to ambient temperature, the reaction mixture was poured onto a 3 N NaOH solution, mixed and extracted three times with EtOAc. The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. Column chromatography (EtOAc) of the residue afforded the title compound as an oil (300 mg, 39% yield, Rf 0.3): NMR (CDCl3, 300 MHz): d 7.5 (s, 1H), 7.2 (d, 1H, J=7), 7.15 (d, 1H, J=7), 6.5 (s, 1H), 4.3-4.1 (m, 1H), 3.8-3.6 (m, 7H), 3.5-3.3 (m, 2H), 2.9 (septet, 1H, J=7), 2.55-2.35 (br m, 3H), 2.35-2.25 (m, 2H), 1.3 (d, 6H, J=7), 1.2 (t, 3H, J=7); CI-HRMS: calcd: 4.33.1603 (M+H), found: 433.1586.

reactant | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-methyl-6-(4-morpholinylcarbonyl)-2-pyrimidinamine | 1.72 mmol, 750 mg | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)C)C(=O)N1CCOCC1)CC | C21H27BrN4O2
reactant | borane | B | BH3
reactant | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 3 N | [OH-].[Na+]
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
solvent | THF | 3.6 mmol, 1 M, 3.6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-Bromo-4-(1-Methylethyl)Phenyl)-N-Ethyl-6-Methyl-4-(4-Morpholinylmethyl)-2-Pyrimidinamine | 300 mg, 39% yield | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)CN1CCOCC1)C)CC | C21H29BrN4O
